US08686134B2
The first N-substitution of 3-methylpiperidine was carried out using butyl bromide as an N-alkylating agent to form 1-butyl-3-methylpiperidine. An equimolar amount of butyl bromide was added dropwise to a solution of 3-methylpiperidine in methanol keeping the temperature at 20° C. by an ice-water bath. The mixture was hydrolyzed with potassium carbonate, extracted with ether, and dried over Na2SO4. The solution was fractionally distilled at reduced pressure and the fraction with by 195° C. was collected. 1H-NMR (300 MHz, CDCl3) δ 0.82 (d, 3H), 0.90 (t, 3H), 1.30 (m, 2H), 1.48 (m, 2H), 1.65 (m, 5H), 2.24 (m, 2H), 2.82 (m, 4H).

reactant | 3-methylpiperidine | CC1CNCCC1 | C6H13N
reactant | butyl bromide | C(CCC)Br | C4H9Br
product | 1-butyl-3-methylpiperidine | C(CCC)N1CC(CCC1)C | C10H21N
